US07871982B2
(iii) (S)-(2-(Allyloxymethyl)pyrrolidin-1-yl)(4-bromophenyl)methanone
Sodium hydride (61.5 mg, 1.41 mmol) (55% in paraffin liquid) was added to a solution of 200 mg (0.704 mmol) of (S)-(4-bromophenyl)(2-(hydroxymethyl)pyrrolidin-1-yl)methanone in N,N-dimethylformamide (2 ml) synthesized in the same manner as in step (i) of Reference Example 8, and the mixture was stirred at room temperature for 30 min. Thereafter, allyl iodide was added thereto, and the mixture was stirred at room temperature for 1 hr. The reaction was stopped by adding a saturated aqueous sodium hydrogencarbonate solution, and the reaction solution was extracted with ethyl acetate. The organic layer was washed with water and saturated brine in that order, was dried over anhydrous sodium sulfate, and was then filtered. The filtrate was concentrated under the reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give 155 mg (yield 68%) of the title compound.

reactant | Sodium hydride | 1.41 mmol, 61.5 mg | [H-].[Na+]
reactant | (S)-(4-bromophenyl)(2-(hydroxymethyl)pyrrolidin-1-yl)methanone | 0.704 mmol, 200 mg | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CO | C12H14BrNO2
reactant | allyl iodide | C(C=C)I | C3H5I
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (S)-(2-(Allyloxymethyl)pyrrolidin-1-yl)(4-bromophenyl)methanone | 155 mg, yield 68% | C(C=C)OC[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)Br | C15H18BrNO2
